US07071177B2
4-(pyrrolidin-3-ylamino)phenyl methyl sulfone (2.96 mmol) was dissolved in 5 mL of THF, to which 645 mg (2.96 mmol) di-tert butyl dicarbonate was added. After 1 h, the mixture was partitioned between EtOAc and water, dried over MgSO4, concentrated and the product crystallized from dichloromethane/hexane to provide 461 mg of 4-(N-BOC-pyrrolidin-3-ylamino)phenyl methyl sulfone, pure by 1H NMR.

reactant | 4-(pyrrolidin-3-ylamino)phenyl methyl sulfone | 2.96 mmol | CS(=O)(=O)C1=CC=C(C=C1)NC1CNCC1 | C11H16N2O2S
reactant | di-tert butyl dicarbonate | 2.96 mmol, 645 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 4-(N-BOC-pyrrolidin-3-ylamino)phenyl methyl sulfone | 461 mg | CS(=O)(=O)C1=CC=C(C=C1)N(C(=O)OC(C)(C)C)C1CNCC1 | C16H24N2O4S
